US06043368
N-2-chlorobenzyl-1-methyl-2-(2-thienyl)ethylamine HCl (16.4 g) is suspended in 50 ml of 1,3-dioxolane. Hydrochloric acid (37% concentration) (0.2 ml) is added and the temperature of the reaction mixture is brought to 80° C. for 6 hours. When the reaction is complete, the mixture is cooled to room temperature, and the precipitation of the product is completed by adding 50 ml of ethyl acetate. The crystalline product is filtered, washed with ethyl acetate and dried under vacuum at 60° C. 5-(2-chlorobenzyl)-6-methyl-4,5,6,7-tetrahydro-thieno[3,2-c]pyridine HCl (10.7 g, 63% yield) is obtained having a m.p. 179-180° C.

reactant | N-2-chlorobenzyl-1-methyl-2-(2-thienyl)ethylamine HCl | 16.4 g | Cl.ClC1=C(CNC(CC=2SC=CC2)C)C=CC=C1
reactant | Hydrochloric acid | 0.2 ml | Cl | ClH
reactant | 1,3-dioxolane | 50 ml | O1COCC1 | C3H6O2
product | 5-(2-chlorobenzyl)-6-methyl-4,5,6,7-tetrahydro-thieno[3,2-c]pyridine HCl | 10.7 g, 63% yield | Cl.ClC1=C(CN2CC3=C(CC2C)SC=C3)C=CC=C1 | InChI=1S/C15H16ClNS.ClH/c1-11-8-15-13(6-7-18-15)10-17(11)9-12-4-2-3-5-14(12)16;/h2-7,11H,8-10H2,1H3;1H
